US08735362B2
Step A: 5-Bromo-8-methyl-quinoline
A solution of 5-Bromo-2-methylaniline (7.44 g), glycerol (7.4 g), nitrobenzene (4.9 g) in 75% sulfuric acid (20 ml) was heated at 150° C. for 3 hrs. The solution was cooled to 0° C. then carefully neutralized with aqueous sodium hydroxide. The reaction mixture became a dark gum and was diluted with water and extracted three times with ethyl acetate. The combined organic layers were washed with saturated brine, then dried with sodium sulphate and the solvent removed in vacuo. The crude product was purified by column chromatography (dichloromethane) to afford the title compound as a solid (6 g). 1H-NMR (CDCl3, 400 MHz) 8.91 (m, 1H), 8.51 (m, 1H), 7.7 (m, 1H), 7.50 (m, 1H), 7.4 (m, 1H), 2.72 (s, 3H).

reactant | 5-Bromo-2-methylaniline | 7.44 g | BrC=1C=CC(=C(N)C1)C | C7H8BrN
reactant | glycerol | 7.4 g | OCC(O)CO | C3H8O3
reactant | nitrobenzene | 4.9 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-Bromo-8-methyl-quinoline | 6 g | BrC1=C2C=CC=NC2=C(C=C1)C | C10H8BrN
